US07211601B2
(3EZ5S)-1-[(3′,4′-dichloro[1,1′-biphenyl]-4-yl)carbonyl]-5-{[4-(2-hydroxyethyl)-1-piperazinyl]carbonyl}-3-pyrrolidinone O-methyloxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 3′,4′-dichloro[1,1′-biphenyl]-4carboxylic acid, and 2-(1-piperazinyl)ethanol, the title compound was obtained in 86% purity by HPLC. MS(ESI+): m/z =520.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 3′,4′-dichloro[1,1′-biphenyl]-4carboxylic acid | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(=O)O | C13H8Cl2O2
reactant | 2-(1-piperazinyl)ethanol | N1(CCNCC1)CCO | C6H14N2O
product | (3EZ5S)-1-[(3′,4′-dichloro[1,1′-biphenyl]-4-yl)carbonyl]-5-{[4-(2-hydroxyethyl)-1-piperazinyl]carbonyl}-3-pyrrolidinone O-methyloxime | CON=C1CN([C@@H](C1)C(=O)N1CCN(CC1)CCO)C(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)Cl)Cl | C25H28Cl2N4O4
